US06551682B1
Next, a reaction flask was loaded with 4-fluoro-6-methoxy-2-methyl-5-(trifluoromethyl)-pyrimidine (22 g) and ethanol (40 ml), followed by dropwise addition of hydrazine monohydrate (10.5 g) to the flask in one hour with stirring. Then, after stirring for one hour, the reaction mixture was filtrated to give 4-hydrazino-6-methoxy-2-methyl-5-(trifluoromethyl)pyrimidine. By GC/MS analysis, a molecular ion peak of 222 was confirmed for this compound.

reactant | 4-fluoro-6-methoxy-2-methyl-5-(trifluoromethyl)-pyrimidine | 22 g | FC1=NC(=NC(=C1C(F)(F)F)OC)C | C7H6F4N2O
reactant | hydrazine monohydrate | 10.5 g | O.NN
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 4-hydrazino-6-methoxy-2-methyl-5-(trifluoromethyl)pyrimidine | N(N)C1=NC(=NC(=C1C(F)(F)F)OC)C | C7H9F3N4O
